US07851626B2
rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride
In a manner analogous to the method described in example 3, rac-2-{4-[(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-propan-2-ol was reacted with phosgene in the presence of triethylamine to give the title compound.

reactant | rac-2-{4-[(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-propan-2-ol | ClC1=CC=C(C=C1)[C@@]1(N=C(N[C@]1(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C)(C)O)OCC)C | C28H30Cl2N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)O)OCC)C | C29H29Cl3N2O3
